datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7](=[C:8]([c:9]1[c:10]([H:25])[c:11]([H:26])[c:12]([H:27])[c:13]([H:28])[c:14]1[H:29])[H:24])[c:15]1[c:16]([H:30])[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]1[H:34])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7]([C:6]([H:21])([H:22])[H:23])[c:15]1[c:16]([H:30])[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]1[H:34])([c:9]1[c:10]([H:25])[c:11]([H:26])[c:12]([H:27])[c:13]([H:28])[c:14]1[H:29])[H:24])[H:3],44.9362
[C:0](=[C:1]([C:2]1([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])[H:8])[H:7]>>[C:0](=[C:1]([C:2]1[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])[H:8])([H:7])[H:9],105.4368
[C:0]([C:1]1([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:5])[H:6]>>[C:0]([C:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:5])([H:6])[H:7],153.134
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4][H:12])([H:10])[H:11])([H:5])[H:6].[O:13][H:14]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3]([O:4][H:12])([H:10])[H:11])([H:5])[H:6].[H:7][O:13][H:14],-11.13190856
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18])[H:8],42.4676
[C:0]([C:1]([C:2]([O:3][H:11])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[O:12]>>[C:0]([C:1]([C:2]([O:3][H:11])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:12],62.3897
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([C:27](=[C:28]([H:32])[H:33])[H:31])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:26]([C:27](=[C:28]([H:32])[H:33])[H:31])([H:29])[H:30])[H:14])([H:12])[H:13],53.9736
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[C:9](=[C:10]([H:18])[H:19])[H:17])[H:13])([H:11])[H:12]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6](=[C:5]([H:11])[H:12])[H:13])([C:8]([H:14])([H:15])[H:16])[C:9](=[C:10]([H:18])[H:19])[H:17],140.582
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([O:13][O:14])([H:20])[H:21])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][O:14][O:13][C:12]([C:11]([C:10]([H:15])([H:16])[H:17])([H:18])[H:19])([H:20])[H:21],39.748
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([O:9][O:10])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][O:10][O:9][C:8]([C:7]([H:11])([H:12])[H:13])([H:14])[H:15],58.70152
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([C:11]([C:12](=[S:13])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:17])[H:5].[C:10]([C:11]([C:12](=[S:13])[H:19])[H:18])([H:14])([H:15])[H:16],48.8273
[H:0].[c:1]1([H:7])[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12]>>[H:0][C:1]1([H:7])[C:2]([H:8])[C:3]([H:9])=[C:4]([H:10])[C:5]([H:11])=[C:6]1[H:12],19.242216
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12](=[S:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:14])[H:7])([H:5])[H:6].[C:12](=[S:13])[H:15],135.311
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[C:14]([C:13](=[C:12]([H:16])[H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])[H:8])([H:6])[H:7],49.6641
[H:0][H:1].[O:2][N:3]=[O:4]>>[H:0].[H:1][O:2][N:3]=[O:4],124.55768
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]=[S:10])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9]([C:8]([H:11])([H:12])[H:13])=[S:10],41.84
[N:0]([O:1])([H:2])[H:3].[N:4]([H:5])[H:6]>>[H:2][N:4]([H:5])[H:6].[N:0](=[O:1])[H:3],-4.8116
[O:0][C:1]1=[C:2]([H:8])[C:3]([H:9])=[C:4]([H:10])[C:5]([H:11])([H:12])[C:6]1=[O:7]>>[O:0][C:1]1([H:11])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]([H:12])[C:6]1=[O:7],185.280072
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13]([C:14]=[O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[C:14]([C:13]([H:16])([H:17])[H:18])=[O:15])([H:4])([H:5])[H:6],0.0
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[H:13]>>[C:0]([C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])([H:6])[H:13],5.14632
